*BZX85C62 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*62V 1300mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX85C62 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  61.39
.MODEL DF D (IS=6.53N RS=32.3M N=1.7 CJO=34.9P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=402U RS=23.3 N=8.4)
.ENDS